US07094789B2
(Step B) Synthesis of 4-bromo-5-aminoisoquinoline
4-Bromo-5-nitroisoquinoline (1.0 g) synthesized as described above and stannous chloride dihydrate (4.5 g, Wako Pure Chemical Industries) were suspended in ethanol (30 ml), added with concentrated hydrochloric acid (2.3 ml) and stirred at 80° C. for 30 minutes and at room temperature for further 12 hours. The reaction mixture was adjusted to pH 12 with addition of 2 N aqueous sodium hydroxide. The target compound was extracted three times with ethyl acetate (100 ml for each time), and the combined organic layer was washed with water (200 ml) and saturated brine (200 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and then the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1) to obtain the title compound (493 mg) as yellow powdery crystals.

reactant | 4-Bromo-5-nitroisoquinoline | 1.0 g | BrC1=CN=CC2=CC=CC(=C12)[N+](=O)[O-] | C9H5BrN2O2
reactant | hydrochloric acid | 2.3 ml | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-bromo-5-aminoisoquinoline | 493 mg | BrC1=CN=CC2=CC=CC(=C12)N | C9H7BrN2
